US06403561B1
Preparation of 5-methylindoline-2 (R/S)-carboxylic Acid Butylamide
Methyl 5-methylindoline-2(R/S)-carboxylate (0.3 g, 4.18 mmol) was dissolved in butylamine (20 ml) and the mixture was refluxed for 4 h under nitrogen. The excess amine was removed under vacuum to give a solid, which was recrystallized from ether in order to allow the product to be collected.

reactant | Methyl 5-methylindoline-2(R/S)-carboxylate | 4.18 mmol, 0.3 g | CC=1C=C2CC(NC2=CC1)C(=O)OC | C11H13NO2
solvent | butylamine | 20 ml | C(CCC)N | C4H11N
product | 5-methylindoline-2 (R/S)-carboxylic Acid Butylamide | C(CCC)NC(=O)C1NC2=CC=C(C=C2C1)C | C14H20N2O
